* varactor_nltl_24cells_25ohm
* Varactor-loaded NLTL 4->8->12 bench design track.
* role=discovery; source_only=True; direct_100=False; direct_150=False
.option method=gear maxord=2 reltol=2e-4 abstol=1e-12 vntol=1e-6 chgtol=1e-16 itl4=200
.model DVAR D(Is=1e-15 Rs=0.85 Cjo=2.62748438751e-10 Vj=0.75 M=0.5 Bv=18 Ibv=1e-06)
Vbias vb 0 DC 4
Vsrc src 0 SIN(0 2 50000000)
Rsrc src n0 25
Rload n24 0 25
Cfixed0 n0 0 2.29183118052e-11
Dvar0 n0 vb DVAR
Rbleed0 n0 0 200000
Rser1 n0 ns1 0.0329983164554
Lser1 ns1 n1 7.95774715459e-08
Cfixed1 n1 0 2.29183118052e-11
Dvar1 n1 vb DVAR
Rbleed1 n1 0 200000
Rser2 n1 ns2 0.0329983164554
Lser2 ns2 n2 7.95774715459e-08
Cfixed2 n2 0 2.29183118052e-11
Dvar2 n2 vb DVAR
Rbleed2 n2 0 200000
Rser3 n2 ns3 0.0329983164554
Lser3 ns3 n3 7.95774715459e-08
Cfixed3 n3 0 2.29183118052e-11
Dvar3 n3 vb DVAR
Rbleed3 n3 0 200000
Rser4 n3 ns4 0.0329983164554
Lser4 ns4 n4 7.95774715459e-08
Cfixed4 n4 0 2.29183118052e-11
Dvar4 n4 vb DVAR
Rbleed4 n4 0 200000
Rser5 n4 ns5 0.0329983164554
Lser5 ns5 n5 7.95774715459e-08
Cfixed5 n5 0 2.29183118052e-11
Dvar5 n5 vb DVAR
Rbleed5 n5 0 200000
Rser6 n5 ns6 0.0329983164554
Lser6 ns6 n6 7.95774715459e-08
Cfixed6 n6 0 2.29183118052e-11
Dvar6 n6 vb DVAR
Rbleed6 n6 0 200000
Rser7 n6 ns7 0.0329983164554
Lser7 ns7 n7 7.95774715459e-08
Cfixed7 n7 0 2.29183118052e-11
Dvar7 n7 vb DVAR
Rbleed7 n7 0 200000
Rser8 n7 ns8 0.0329983164554
Lser8 ns8 n8 7.95774715459e-08
Cfixed8 n8 0 2.29183118052e-11
Dvar8 n8 vb DVAR
Rbleed8 n8 0 200000
Rser9 n8 ns9 0.0329983164554
Lser9 ns9 n9 7.95774715459e-08
Cfixed9 n9 0 2.29183118052e-11
Dvar9 n9 vb DVAR
Rbleed9 n9 0 200000
Rser10 n9 ns10 0.0329983164554
Lser10 ns10 n10 7.95774715459e-08
Cfixed10 n10 0 2.29183118052e-11
Dvar10 n10 vb DVAR
Rbleed10 n10 0 200000
Rser11 n10 ns11 0.0329983164554
Lser11 ns11 n11 7.95774715459e-08
Cfixed11 n11 0 2.29183118052e-11
Dvar11 n11 vb DVAR
Rbleed11 n11 0 200000
Rser12 n11 ns12 0.0329983164554
Lser12 ns12 n12 7.95774715459e-08
Cfixed12 n12 0 2.29183118052e-11
Dvar12 n12 vb DVAR
Rbleed12 n12 0 200000
Rser13 n12 ns13 0.0329983164554
Lser13 ns13 n13 7.95774715459e-08
Cfixed13 n13 0 2.29183118052e-11
Dvar13 n13 vb DVAR
Rbleed13 n13 0 200000
Rser14 n13 ns14 0.0329983164554
Lser14 ns14 n14 7.95774715459e-08
Cfixed14 n14 0 2.29183118052e-11
Dvar14 n14 vb DVAR
Rbleed14 n14 0 200000
Rser15 n14 ns15 0.0329983164554
Lser15 ns15 n15 7.95774715459e-08
Cfixed15 n15 0 2.29183118052e-11
Dvar15 n15 vb DVAR
Rbleed15 n15 0 200000
Rser16 n15 ns16 0.0329983164554
Lser16 ns16 n16 7.95774715459e-08
Cfixed16 n16 0 2.29183118052e-11
Dvar16 n16 vb DVAR
Rbleed16 n16 0 200000
Rser17 n16 ns17 0.0329983164554
Lser17 ns17 n17 7.95774715459e-08
Cfixed17 n17 0 2.29183118052e-11
Dvar17 n17 vb DVAR
Rbleed17 n17 0 200000
Rser18 n17 ns18 0.0329983164554
Lser18 ns18 n18 7.95774715459e-08
Cfixed18 n18 0 2.29183118052e-11
Dvar18 n18 vb DVAR
Rbleed18 n18 0 200000
Rser19 n18 ns19 0.0329983164554
Lser19 ns19 n19 7.95774715459e-08
Cfixed19 n19 0 2.29183118052e-11
Dvar19 n19 vb DVAR
Rbleed19 n19 0 200000
Rser20 n19 ns20 0.0329983164554
Lser20 ns20 n20 7.95774715459e-08
Cfixed20 n20 0 2.29183118052e-11
Dvar20 n20 vb DVAR
Rbleed20 n20 0 200000
Rser21 n20 ns21 0.0329983164554
Lser21 ns21 n21 7.95774715459e-08
Cfixed21 n21 0 2.29183118052e-11
Dvar21 n21 vb DVAR
Rbleed21 n21 0 200000
Rser22 n21 ns22 0.0329983164554
Lser22 ns22 n22 7.95774715459e-08
Cfixed22 n22 0 2.29183118052e-11
Dvar22 n22 vb DVAR
Rbleed22 n22 0 200000
Rser23 n22 ns23 0.0329983164554
Lser23 ns23 n23 7.95774715459e-08
Cfixed23 n23 0 2.29183118052e-11
Dvar23 n23 vb DVAR
Rbleed23 n23 0 200000
Rser24 n23 ns24 0.0329983164554
Lser24 ns24 n24 7.95774715459e-08
Cfixed24 n24 0 2.29183118052e-11
Dvar24 n24 vb DVAR
Rbleed24 n24 0 200000
.control
set filetype=ascii
set wr_singlescale
set wr_vecnames
tran 5e-10 5.5e-07 0 2e-10
wrdata varactor_nltl_24cells_25ohm_tran.csv time v(n0) v(n12) v(n24) i(Vsrc) i(Vbias)
.endc
.end
